US08431569B2
Step 1. 8-Fluoro-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one
To 2,4-dihydroxypyridine (43.6 g, 392 mmol) in phenyl ether (760 mL) in a three neck flask fitted with a Dean-Stark trap was added 4-fluorophenylhydrazine in phenyl ether (100 mL). The reaction mixture was heated to 165° C. for 1 h, slowly warmed to 230° C., and left to stir at 230° C. for 1 h. The reaction mixture was allowed to cool to 45° C. and treated with isopropanol and toluene. The mixture was filtered, washed with toluene, and dried to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 11.82 (s, 1H); 11.13 (s, 1H); 7.71 (dd, 1H); 7.45 (dd, 1H); 7.28 (t, 1H); 7.12 (m, 1H); 6.45 (d, 1H). LRMS (APCI) calc'd for (C11H7FN2O) [M+H]+, 203.1. found 203.1.

reactant | 2,4-dihydroxypyridine | 392 mmol, 43.6 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | 4-fluorophenylhydrazine | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | phenyl ether | 760 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | phenyl ether | 100 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-Fluoro-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one | FC1=CC=2C3=C(NC2C=C1)C=CNC3=O | C11H7FN2O
